US07411072B2
2-Chloro-5-(3-methyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Following procedures essentially as described in Example 219, below, and using m-tolylboronic acid (61 mg, 0.45 mmol) and 5-bromomethylene-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (119 mg, 0.37 mmol) provides the title compound. GC/MS data: retention times in minutes (MS data for M+.ion): 19.60 (330), 19.95(330) Mass Spec (EI+) 330.

reactant | m-tolylboronic acid | 0.45 mmol, 61 mg | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
reactant | 5-bromomethylene-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.37 mmol, 119 mg | BrC=C1C2=C(CCC3=C1C=CC(=C3)Cl)C=CC=C2 | C16H12BrCl
product | 2-Chloro-5-(3-methyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | ClC1=CC2=C(C(C3=C(CC2)C=CC=C3)=CC3=CC(=CC=C3)C)C=C1 | C23H19Cl
